US07541372B2
2-(2-Methoxy-4-methyl-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole
As described for example 2, 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide (200 mg, 0.92 mmol) was converted using 2-methoxy-4-methyl-benzoic acid instead of o-toluic acid to the title compound (SiO2, heptane:ethyl acetate:dichloromethane=75:5:20 to 60:20:20, 155 mg, 48%) which was obtained as a white solid. MS: m/e=348.2 [M+H]+.

reactant | 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide | 0.92 mmol, 200 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)NN | C11H11N3O2
reactant | 2-methoxy-4-methyl-benzoic acid | COC1=C(C(=O)O)C=CC(=C1)C | C9H10O3
product | 2-(2-Methoxy-4-methyl-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole | 155 mg, 48% | COC1=C(C=CC(=C1)C)C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1 | C20H17N3O3
